US04970225
A mixture of methyl 2,5-dioxo-3,4-diphenyl-1-imidazolidinenonanoate (3.00 g, 7 mmol) and 6N HCl solution (30 mL) was heated at reflux for 22 hours. The mixture was cooled, extracted with CH2Cl2 and the combined extracts washed with water and twice with saturated sodium chloride solution. After drying over sodium sulfate, the solvent was evaporated and the residue chromatographed on a column of silica gel using a mixture of hexanes and ethyl acetate (2:1) as eluent. Elution gave 2,5-dioxo-3,4-diphenyl-1-imidazolidinenonanoic acid (1.06 g, 36%) after recrystallization from a mixture of hexanes, diethyl ether and CH2Cl2 (6:2:2), mp 111.5°-112.5° C. Anal. Calcd. for C24H28N2O4 : C, 70.57: H, 6.91: N, 6.86. Found: C, 70.45: H, 7.05: N, 6.75%.

reactant | methyl 2,5-dioxo-3,4-diphenyl-1-imidazolidinenonanoate | 7 mmol, 3.00 g | O=C1N(C(C(N1C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCCCCCC(=O)OC | C25H30N2O4
solvent | HCl | 6N, 30 mL | Cl | ClH
product | 2,5-dioxo-3,4-diphenyl-1-imidazolidinenonanoic acid | 1.06 g, 36% | O=C1N(C(C(N1C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCCCCCC(=O)O | C24H28N2O4
